US06004965
From 1,4-dicyanobenzene and sodium methylate in methanol followed by ammonium chloride there is obtained 4-cyano-benzamidine hydrochloride, which is used in the next step without further purification, and therefrom with diethyl (2-methoxy-phenoxy)-malonate there is obtained rac.-4-[5-(2-methoxy-phenoxy)-4,6-dioxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-benzo-nitrile as a yellow product with a melting point >250° C. With PCl5 and POCl3 this compound yields 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-benzonitrile as a brownish material of melting point 179-180° C. from EtOAc. Reaction with 4-tert.-butyl-benzenesulphonamide K finally yields 4-tert.-butyl-N-[6-chloro-2-(4-cyanophenyl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-benzenesulphonamide.

reactant | 1,4-dicyanobenzene | C(#N)C1=CC=C(C=C1)C#N | C8H4N2
reactant | sodium methylate | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 4-cyano-benzamidine hydrochloride | Cl.C(#N)C1=CC=C(C(=N)N)C=C1 | InChI=1S/C8H7N3.ClH/c9-5-6-1-3-7(4-2-6)8(10)11;/h1-4H,(H3,10,11);1H
